US06858651B2
A solution of 24.18 g (82 mmol) of trans-[4-(Methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester in 80 ml of DMF was treated at 0° C. with 5.37 g (123 mmol) of 55% NaH in small portions. The reaction was stirred for 1 h at 0° C., then treated slowly (20 min) with 40.9 ml (656 mmol) iodomethane and warmed up to RT over night. The reaction is cooled and neutralized with aqueous 10% KHSO4 and poured into water/Et2O (3×). The organic phase was washed with aqueous 10% NaCl, dried over Na2SO4 evaporated and purified by flash silica gel column (CH2Cl2/EtOAc 9:1 to 1:1) to yield 20.69 g (84%) of trans-[4-(Methoxy-methyl-carbamoyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester, MS: 301 (MH+).

reactant | trans-[4-(Methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester | 82 mmol, 24.18 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C14H26N2O4
reactant | NaH | 123 mmol, 5.37 g | [H-].[Na+]
reactant | iodomethane | 656 mmol, 40.9 ml | IC | CH3I
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | water Et2O | O.CCOCC
product | trans-[4-(Methoxy-methyl-carbamoyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 20.69 g, 84% | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C15H28N2O4
